US04810713
4-[Bis(4-fluorophenyl)methyl]-1-[3-(3,5-dimethoxyphenoxy)propyl]piperidine
A mixture of 5.51 g (0.019 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine, 4.42 g (0.019 mole) of 1-(3-chloropropoxy)-3,5-dimethoxybenzene and potassium carbonate (5.53 g, 0.04 mole) was heated overnight at reflux in 350 ml of 1-butanol containing potassium iodide (0.3 g). The reaction mixture was stripped to dryness and the residue partitioned between chloroform-5% sodium hydroxide and chloroform-water. Removal of chloroform gave a brown oil. The oil was subjected to chromatography on a silica gel column using a gradient elution series of hexane-ethyl acetate and ethyl acetate-dimethoxyethane. After combining proper fractions eluted from the column and removing solvent, the residual oil was dried in vacuo overnight at 80° C. This produced 2.61 g (28.5%) of brown oil.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.019 mole, 5.51 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 1-(3-chloropropoxy)-3,5-dimethoxybenzene | 0.019 mole, 4.42 g | ClCCCOC1=CC(=CC(=C1)OC)OC | C11H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | ethyl acetate dimethoxyethane | C(C)(=O)OCC.C(OC)COC
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-[Bis(4-fluorophenyl)methyl]-1-[3-(3,5-dimethoxyphenoxy)propyl]piperidine | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC(=CC(=C1)OC)OC)C1=CC=C(C=C1)F | C29H33F2NO3
